US04102902
Following the same procedure, 1.18 g. of 5-(1,1-dimethylheptyl)resorcinol and 1.19 g. of (+)-6,6-dimethyl-2,2-diacetoxy-3-norpinene were reacted to afford (+)-4-[4-(1,1-dimethylheptyl)-2,6-dihydroxyphenyl]-6,6-dimethyl-2-norpinanone having the identical physical properties as that obtained as described in Example 3.

reactant | 5-(1,1-dimethylheptyl)resorcinol | CC(CCCCCC)(C)C=1C=C(C=C(O)C1)O | C15H24O2
reactant | (+)-6,6-dimethyl-2,2-diacetoxy-3-norpinene | CC1(C2C=CC(C1C2)(OC(C)=O)OC(C)=O)C | C13H18O4
product | (+)-4-[4-(1,1-dimethylheptyl)-2,6-dihydroxyphenyl]-6,6-dimethyl-2-norpinanone | CC(CCCCCC)(C)C1=CC(=C(C(=C1)O)C1CC(C2C(C1C2)(C)C)=O)O | C24H36O3
